US04336378
To 1350 grams of polyphosphoric acid at 100° to 110° C., there is added portionwise 89.3 g. (0.307 mole) of 1-(5-methyl-3-phenyl-4-isoxazolyl)-1-ethanone phenyl hydrazone, while maintaining the temperature between 105° and 115° C. After addition is complete the mixture is stirred at 100° to 110° C. for 3 hours. The mixture is then poured onto ice and water and the resulting solid is filtered and washed with water. The solid is then dissolved in ether, washed with water, dried and evaporated partially and cooled in ice. The resulting solid is filtered and washed with cold ether to give 2-(5-methyl-3-phenyl-4-isoxazolyl)-indole; m.p. 145° to 146° C.

reactant | 1-(5-methyl-3-phenyl-4-isoxazolyl)-1-ethanone phenyl hydrazone | 0.307 mole | C1(=CC=CC=C1)NN=C(C)C=1C(=NOC1C)C1=CC=CC=C1 | C18H17N3O
solvent | water | O | H2O
product | 2-(5-methyl-3-phenyl-4-isoxazolyl)-indole | CC1=C(C(=NO1)C1=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C18H14N2O
